US05290801
Preparation of N'-(2,4-difluorophenyl-N-heptyl-N-[5(3 H-imidazo[4,5-b]pyridin-2-ylthio)pentyl]urea
Part B. A 100 mL flask was charged with 2-mercaptoimidazo[4,5-b]-pyridine (0.65 g, 0.0043 mol), sodium iodide (0.129 g, 0.00086 mol), and potassium carbonate (0.789 g, 0.00571 mol) in N,N-dimethylformamide (15 mL). A solution of N-(5-bromopentyl)-N-heptyl-N'-(2,4-difluorophenyl)urea (2.34 g, 0.00558 mol) in N,N-dimethylformamide (20 mL) was added and the mixture was heated to 60° C. under nitrogen atmosphere for 18 hours, then cooled and poured into ethyl acetate (100 mL). The ethyl acetate solution was washed with water (3×100 mL), dried over magnesium sulfate and concentrated. Purification by flash chromatography of the resulting residue afforded the product, which solidified upon standing overnight. The residue was recrystallized to afford the title compound (2.13 g, 0.0043 mol) as a viscous oil. 1H NMR (CDCl3) δ8.27 (dd,1H,J=5.2, 1.4 Hz), 8.06-7.98 (m,1H), 7.91 (dd,1H,J=7.9, 1.3 Hz), 7.18 (dd,1H,J=7.9, 4.9 Hz), 6.84-6.76 (m,1H), 6.49 (d,1H,J=3.3 Hz), 3.41-3.24 (m,6H), 1.94-1.84 (m,2H), 1.74-1.51 (m,6H), 1.35-1.23 (m,8H), 0.88 (t,3H,J=6.6 Hz).

reactant | 2-mercaptoimidazo[4,5-b]-pyridine | 0.0043 mol, 0.65 g | SC=1NC=2C(=NC=CC2)N1 | C6H5N3S
reactant | sodium iodide | 0.00086 mol, 0.129 g | [I-].[Na+]
reactant | potassium carbonate | 0.00571 mol, 0.789 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(5-bromopentyl)-N-heptyl-N'-(2,4-difluorophenyl)urea | 0.00558 mol, 2.34 g | BrCCCCCN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC | C19H29BrF2N2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2,4-difluorophenyl-N-heptyl-N-[5(3 H-imidazo[4,5-b]pyridin-2-ylthio)pentyl]urea | 0.0043 mol, 2.13 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCSC1=NC=2C(=NC=CC2)N1)CCCCCCC)=O | C25H33F2N5OS
